US08633215B2
(2D) 2-Dimethylaminomethyl-9-hydroxy-4H-thieno[2,3-c]isoquinolin-5-one-hydrochloride
To a solution of 2-dimethylaminomethyl-9-hydroxy-4H-thieno[2,3-c]isoquinolin-5-one-hydrobromide (7 g; 22.5 mmol) under nitrogen atmosphere, in absolute MeOH (300 mL) was gently bubbled HCl (g) over 25 minutes. After 20 minutes some solid started to precipitate. The bubbling of the HCl (g) was stopped and the suspension was stirred at room temperature overnight. Under stirring, ether (300 mL) was added over 20 minutes and the resulting hydrochloride salt was collected by filtration, washed with ether (100 mL), dried at 60° C. in a vacuum oven to give 6.67 g. The ionic chromatography showed 1.13 eq of HCl and the NMR was consistent with the expected product. This and 2.8 g from similar run were combined (9.45 g) and dissolved in hot water (70 mL). Under stirring acetone (800 mL) was added drop wise over 40 minutes, filtered off washed with acetone (100 mL) and dried at 60° C. in a vacuum oven for 24 hours to give 2-dimethylaminomethyl-9-hydroxy-4H-thieno[2,3-c]isoquinolin-5-one-hydro chloride; 7.1 g; 80% yield; HPLC: 99.25%. The ionic chromatography showed 0.93 eq of HCl the content of HCl having dropped to 0.93 eq after recrystallization.

reactant | 2-dimethylaminomethyl-9-hydroxy-4H-thieno[2,3-c]isoquinolin-5-one-hydrobromide | 22.5 mmol, 7 g | Br.CN(C)CC1=CC2=C(NC(C=3C=CC=C(C23)O)=O)S1
reactant | HCl | Cl | ClH
reactant | HCl | 1.13 eq | Cl | ClH
solvent | MeOH | 300 mL | CO | CH4O
product | 2-Dimethylaminomethyl-9-hydroxy-4H-thieno[2,3-c]isoquinolin-5-one-hydrochloride | Cl.CN(C)CC1=CC2=C(NC(C=3C=CC=C(C23)O)=O)S1 | InChI=1S/C14H14N2O2S.ClH/c1-16(2)7-8-6-10-12-9(4-3-5-11(12)17)13(18)15-14(10)19-8;/h3-6,17H,7H2,1-2H3,(H,15,18);1H
